data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2114,2347,[CH3:16][O:17][C:18](=[O:19])[c-:20]1[o+:21][c:22](-[c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[o:29][c:30]1=[O:31].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:20]1([C:18]([O:17][CH3:16])=[O:19])[O:21][C:22]3([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[O:29][C:30]1=[O:31],water,298.15,26.162541609015907,-24.32505319225577
1868,2072,[CH2-:18][N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]#[C:10][C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]2=[C:10]([C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[CH2:18][N:19]([CH3:20])[C:21]2([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,12.582247492764642,-35.75584028079267
1477,1631,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1.[N:17]#[C:18][C-:19]([N+:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([CH2:12][CH2:13][CH2:14][CH2:15][CH2:16]1)[C:19]([C:18]#[N:17])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:20]=[N:21]2,water,298.15,22.07711052230914,-30.27003610356553
4651,5304,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[N-:18][N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[C:24]#[N:25]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:18]([C:16]([CH3:15])=[O:17])[N:19]([CH3:20])[C:21]2([C:22]#[N:23])[C:24]#[N:25],water,298.15,28.84558509252068,-0.2116675902170683
3139,3537,[CH3:10][CH:11]=[O+:12][C-:13]([CH3:14])[CH3:15].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([CH3:14])([CH3:15])[O:12][CH:11]1[CH3:10],water,298.15,4.114011817354889,-58.302724978318565
4494,5127,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][CH-:16][C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:16]([C:17]#[N:18])[O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,10.685585488905891,-44.101428839925006
3036,3393,[CH3:9][C:10](=[O:11])[N:12]=[NH+:13][O-:14].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[O:14][NH:13][N:12]1[C:10]([CH3:9])=[O:11],water,298.15,30.61318358737576,-11.11151167022002
3527,4025,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[N-:9][NH+:10]=[C:11]([C:12]([CH3:13])=[O:14])[C:15](=[O:16])[NH:17][CH3:18]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:9]([C:7]([NH:6][CH3:5])=[O:8])[NH:10][C:11]1([C:12]([CH3:13])=[O:14])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,28.41456132441565,-13.488376637775092
193,210,[CH3:1][O:2][C:3]#[C:4][C:5](=[O:6])[O:7][CH3:8].[N:9]#[C:10][C:11]#[N+:12][CH-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][O:2][C:3]1=[C:4]([C:5](=[O:6])[O:7][CH3:8])[C:11]([C:10]#[N:9])=[N:12][CH:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,18.2154457283326,-76.79721794367931
1839,2039,[CH3:18][O:19][C:20](=[O:21])[C:22]([C:23](=[O:24])[O:25][CH3:26])=[N+:27]([CH3:28])[NH-:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:22]([C:20]([O:19][CH3:18])=[O:21])([C:23](=[O:24])[O:25][CH3:26])[N:27]([CH3:28])[NH:29]3,water,298.15,24.65916341329613,-31.99477634678092
3227,3643,[CH3:10][N-:11][N+:12]#[C:13][C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:11]([CH3:10])[N:12]=[C:13]1[C:14]([CH3:15])=[O:16],water,298.15,18.69575044336904,-34.06651056397324
4757,5432,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]2([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,18.52557629617813,-32.4877755225589
